US04757070
5-(2-Aminoethyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester
5-(2-Nitrovinyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester (1 g) is dissolved in ethanol (20 ml) and in a hydrogen atmosphere with stirring is slowly added drop by drop to a suspension of 10% palladium carbon (0.25 g) in ethanol (50 ml) and sulfuric acid (0.1 ml). In the end, it is stirred for another half hour more. Then the catalyst is suctioned off and the filtrate evaporated. After the usual working up, 0.6 g of the title compound is obtained.

reactant | 5-(2-Nitrovinyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1C)C=C[N+](=O)[O-] | C17H15N3O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
catalyst | palladium carbon | 0.25 g | [C].[Pd]
product | 5-(2-Aminoethyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester | 0.6 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1C)CCN | C17H19N3O2
